US20010019995A1
A solution of 7-cycloprop-1-enyl-heptanoic acid ethyl ester in 5 ml of ether was treated with 0.1 g of isopropyl amine at room temperature. The solvent was stripped to give 40 mg of 7-cycloprop-1-enyl-heptanoic acid isopropylamine salt.

reactant | 7-cycloprop-1-enyl-heptanoic acid ethyl ester | C(C)OC(CCCCCCC1=CC1)=O | C12H20O2
reactant | isopropyl amine | 0.1 g | C(C)(C)N | C3H9N
solvent | ether | 5 ml | CCOCC | C4H10O
product | 7-cycloprop-1-enyl-heptanoic acid isopropylamine salt | 40 mg | C(C)(C)N.C1(=CC1)CCCCCCC(=O)O | InChI=1S/C10H16O2.C3H9N/c11-10(12)6-4-2-1-3-5-9-7-8-9;1-3(2)4/h7H,1-6,8H2,(H,11,12);3H,4H2,1-2H3
